US04613609
1-Chloro-4-(2-propynyl)benzene
In a flask containing 59 g (2.43 mole) magnesium turnings in 500 ml anhydrous ether under an atmosphere of nitroge add slowly a solution of 465 g (2.43 mole) of 4-bromochlorobenzene in 1 liter 4 anhydrous ether. With caution, once the Grignard has started maintain slow reflux until all 4-bromochlorobenzene has been added. Stir an additional hour and then add this Grignard (maintain slow reflux) to a suspension of 170 g (2.43 mole) methoxyallene and 69 g of cuprous bromide in 300 ml anhydrous ether under N2. When addition is complete, stir another 10 minutes and then add saturated ammonium chloride. Decant off the ether solution wash the solid residue with ether (3×50 ml). Combine the ether extracts and wash with 1N HCl, saturated aqueous sodium bicarbonate, water and dry over magnesium sulfate. Evaporate off the ether and distill the residue in vacuo to obtain the title compound (99-105mmHg).

reactant | magnesium | 2.43 mole, 59 g | [Mg] | Mg
reactant | 4-bromochlorobenzene | 2.43 mole, 465 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | methoxyallene | 2.43 mole, 170 g | COC=C=C | C4H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | N-[4-(1-Hydroxy-2-(1H-imidazol-1-yl)ethyl]phenyl]methanesulfonamide | 1 liter | OC(CN1C=NC=C1)C1=CC=C(C=C1)NS(=O)(=O)C | C12H15N3O3S
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1-Chloro-4-(2-propynyl)benzene | ClC1=CC=C(C=C1)CC#C | C9H7Cl
